US07109335B2
Preparation of 2,4-dichloro-5-trifluoromethylpyrimidine (3):
5-Trifluoromethyluracil (250 g, 1.39 mol) and phosphorous oxychloride (655 mL, 6.94 mol, 5 equiv) were charged to a 3 L 4-neck flask equipped with overhead stirrer, a reflux condenser, an addition funnel and an internal theromocouple. The contents were maintained under a nitrogen atmosphere as concentrated phosphoric acid (85 wt %, 9.5 mL, 0.1 equiv) was added in one portion to the slurry, resulting in a moderate exotherm. Diisopropylethylamine (245 mL, 1.39 mol, 1 equiv) was then added dropwise over 15 min at such a rate that the internal temperature of the reaction reached 85–90° C. by the end of the addition. By the end of the amine addition the reaction mixture was a homogenous light-orange solution. Heating was initiated and the orange solution was maintained at 100° C. for 20 h, at which time HPLC analysis of the reaction mixture indicated that the starting material was consumed. External heating was removed and the contents of the flask were cooled to 40° C. and then added dropwise to a cooled mixture of 3N HCl (5 L, 10 equiv) and diethyl ether (2 L) keeping the temperature of the quench pot between 10 and 15° C. The layers were separated, and the aqueous layer was extracted once with ether (1 L). The combined organic layers were combined, washed with water until the washes were neutral (5×1.5 L washes), dried with MgSO4 and concentrated to provide 288 g (95% yield) of a light yellow-orange oil of 96% purity (HPLC). This material can be further purified by distillation (bp 109° C. at 79 mmHg).

reactant | 5-Trifluoromethyluracil | 1.39 mol, 250 g | FC(C=1C(NC(NC1)=O)=O)(F)F | C5H3F3N2O2
reactant | phosphorous oxychloride | 6.94 mol, 655 mL, 5 equiv | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phosphoric acid | 9.5 mL, 0.1 equiv | P(O)(O)(O)=O | H3O4P
reactant | Diisopropylethylamine | 1.39 mol, 245 mL, 1 equiv | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 3N, 5 L, 10 equiv | Cl | ClH
solvent | diethyl ether | 2 L | C(C)OCC | C4H10O
product | 2,4-dichloro-5-trifluoromethylpyrimidine | 288 g, 95% yield | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
